US07910595B2
4-(4-Hydroxy-phenylsulfanyl)-3-nitro-benzoic acid methyl ester
To a solution of 4-chloro-3-nitrobenzoic acid methyl ester (4.00 g, 18 mmol) and 4-mercaptophenol (2.37 g, 18 mmol) in acetone (60 mL) was added Cs2CO3 (5.93 g, 18 mmol) at room temperature, and then the mixture was refluxed for 30 minutes. After cooling to room temperature, the mixture was filtered and the filtrate was evaporated. The residue was diluted with AcOEt (30 mL), washed with H2O (3 times) and brine, dried over MgSO4, and evaporated to give brown oil. The oily residue was separated by silica gel column chromatography (n-hexane/AcOEt=4/3) to give the title compound as yellow amorphous (5.60 g).

reactant | 4-chloro-3-nitrobenzoic acid methyl ester | 18 mmol, 4.00 g | COC(C1=CC(=C(C=C1)Cl)[N+](=O)[O-])=O | C8H6ClNO4
reactant | 4-mercaptophenol | 18 mmol, 2.37 g | SC1=CC=C(C=C1)O | C6H6OS
reactant | Cs2CO3 | 18 mmol, 5.93 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | acetone | 60 mL | CC(=O)C | C3H6O
product | 4-(4-Hydroxy-phenylsulfanyl)-3-nitro-benzoic acid methyl ester | COC(C1=CC(=C(C=C1)SC1=CC=C(C=C1)O)[N+](=O)[O-])=O | C14H11NO5S
